US06392104B1
In an atmosphere of nitrogen, 10 mmole of 1-nitro-3-adamantanol obtained by the method of Example 4 and 12 mmole of triethylamine were dissolved in 10 ml of DMF. To the mixture, 11 mmole of acetyl chloride was added dropwise over 30 minutes at 40° C. The mixture was stirred for another 3 hours at 40° C. As a result, the conversion of 1-nitro-3-adamantanol was 99%, and 1-acetyloxy-3-nitroadamantane (yield 95%) was formed.

reactant | acetyl chloride | 11 mmole | C(C)(=O)Cl | C2H3ClO
reactant | 1-nitro-3-adamantanol | [N+](=O)([O-])C12CC3(CC(CC(C1)C3)C2)O | C10H15NO3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-acetyloxy-3-nitroadamantane | yield 95% | C(C)(=O)OC12CC3(CC(CC(C1)C3)C2)[N+](=O)[O-] | C12H17NO4
